US08217064B2
Ethyl 2-(4-nitro-3-(2,2,2-trifluoroethoxy)phenyl)acetate (3 g, 9.7 mmol) was dissolved in 50 mL anhydrous DMF, NaH (60% wt. in oil, 0.514 g, 10.7 mmol) was added at 0° C. The reaction mixture was stirred for 0.5 h at 25° C. and 1,3-dibromopropane (1.03 mL, 9.7 mmol) was added drop wise at 0° C. The reaction mixture was stirred at 0° C. for 1 h and saturated NH4Cl solution (10 mL) was added. The reaction mixture was extracted with EtOAc (3×20 mL) and the combined organic phases were washed with water (3×20 mL) and brine (20 mL), dried over MgSO4, filtered and concentrated under reduced pressure to give ethyl 1-(4-nitro-3-(2,2,2-trifluoroethoxy)phenyl)cyclobutanecarboxylate (900 mg) as a colorless oil.

reactant | Ethyl 2-(4-nitro-3-(2,2,2-trifluoroethoxy)phenyl)acetate | 9.7 mmol, 3 g | [N+](=O)([O-])C1=C(C=C(C=C1)CC(=O)OCC)OCC(F)(F)F | C12H12F3NO5
reactant | NaH | 10.7 mmol, 0.514 g | [H-].[Na+]
reactant | 1,3-dibromopropane | 9.7 mmol, 1.03 mL | BrCCCBr | C3H6Br2
reactant | NH4Cl | 10 mL | [NH4+].[Cl-]
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | ethyl 1-(4-nitro-3-(2,2,2-trifluoroethoxy)phenyl)cyclobutanecarboxylate | 900 mg | [N+](=O)([O-])C1=C(C=C(C=C1)C1(CCC1)C(=O)OCC)OCC(F)(F)F | C15H16F3NO5
